US07777047B2
N-methyl-N-{2-[5-(2-morpholino-2-oxoethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
To a solution of (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid (0.150 g) in N,N-dimethylformamide (6 mL) were added 1H-1,2,3-benzotriazol-1-ol (0.063 g), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.079 g), N-ethyldiisopropylamine (0.12 mL) and morpholine (0.06 mL), and the mixture was stirred at room temperature for 20 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate:methanol=50:50-0:100), and recrystallized from hexane-ethyl acetate to give the title compound (0.099 g, yield 57%) as colorless crystals. melting point 173-174° C.

reactant | (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetic acid | 0.150 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)O)S(=O)(=O)C=1SC=CC1 | C18H17N3O4S3
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.063 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.079 g | Cl.CN(CCCN=C=NCC)C
reactant | N-ethyldiisopropylamine | 0.12 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | morpholine | 0.06 mL | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-methyl-N-{2-[5-(2-morpholino-2-oxoethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 0.099 g, yield 57% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)N1CCOCC1 | C22H24N4O4S3
